US07265225B2
C. Preparation of Methanesulfonic Acid 2-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-ethyl Ester
Stir a solution of 2-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-ethanol (293 mg, 0.78 mmol) and methane sulfonyl chloride (68μL, 0.81 ml) in dried pyridine (5 mL) for 2 hours. Remove the pyridine in vacuo and recover the residue with chloroform. Wash the organic layer with saturated sodium bicarbonate and dry over sodium sulfate to give the desired subtitled intermediate as a white foam (425 mg, 100%). MS ES+ m/e 451.1 (M+1).

reactant | 2-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-ethanol | 0.78 mmol, 293 mg | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)OCCO | C22H20N4O2
reactant | methane sulfonyl chloride | 68μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | Methanesulfonic Acid 2-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-ethyl Ester | 425 mg, 100% | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)OCCOS(=O)(=O)C | C23H22N4O4S
